US05573922
2,4-Dichloro-6-tert.butylamino-1,3,5-triazine
10 ml 0.1N sodium hydroxide solution and 6.74 g (92.25 mmol) tert.butylamine are added to 9.23 g (50 mmol) cyanuric chloride in 200 ml toluene and stirred for 1 hour at 20° C. The pH value of the reaction is monitored continuously during this period and if necessary readjusted to pH 11-12 with 1N sodium hydroxide solution. Subsequently the solvent is removed by distillation, the residue is taken up in 150 ml water, extracted twice with 150 ml ethyl acetate each time, the organic phase is dried over magnesium sulfate and the solvent is removed. The residue is dissolved in 200 ml ethyl acetate/petroleum ether (v/v 4/1), insoluble components are removed by filtration and the filtrate is concentrated by evaporation. The crude product is purified by column chromatography (silica gel Merck 60, 5×30 cm, eluant: ethyl acetate/petroleum ether (v/v 4/1).

reactant | sodium hydroxide | 0.1N, 10 ml | [OH-].[Na+]
reactant | tert.butylamine | 92.25 mmol, 6.74 g | C(C)(C)(C)N | C4H11N
reactant | cyanuric chloride | 50 mmol, 9.23 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 2,4-Dichloro-6-tert.butylamino-1,3,5-triazine | ClC1=NC(=NC(=N1)Cl)NC(C)(C)C | C7H10Cl2N4
